US09260427B2
Prepared using General Procedure 3: To the solution of (S)-methyl 2-amino-3-(4-cyanophenyl)propanoate (789.2 mg, 3.32 mmol) in DCM (15 mL) and DIEA (1.29 g, 9.96 mmol) was added 4-(tert-butyl)benzoyl chloride (981.3 mg, 4.99 mmol) at room temperature. The reaction was stirred for 2 h and the reaction was partitioned between DCM and saturated aqueous NaHCO3. The organic layer was dried over mgSO4 and concentrated. The crude product was purified by chromatography (EA/hexanes) to afford 1.06 g (88%) of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-cyanophenyl)propanoate. LCMS-ESI (m/z calculated for C22H24N2O3: 364.2. found 365.3 [M+H]+, tR=3.55 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.81 (d, J=8.0 Hz, 1H), 7.85-7.60 (m, 4H), 7.49 (dd, J=15.1, 8.4 Hz, 4H), 4.85-4.60 (m, 1H), 3.65 (s, 3H), 3.30-3.23 (m, 1H), 3.18 (dd, J=13.7, 10.6 Hz, 1H), 1.29 (s, 9H).

reactant | (S)-methyl 2-amino-3-(4-cyanophenyl)propanoate | 3.32 mmol, 789.2 mg | N[C@H](C(=O)OC)CC1=CC=C(C=C1)C#N | C11H12N2O2
reactant | DIEA | 9.96 mmol, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(tert-butyl)benzoyl chloride | 4.99 mmol, 981.3 mg | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-cyanophenyl)propanoate | 1.06 g, 88% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C#N)C=C1 | C22H24N2O3
